US08304419B2
Step D: 1,1-dimethylethyl (2-{[({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)amino]carbonyl}-1H-indol-7-yl)carbamate
HATU (0.055 g, 0.145 mmol) was added to a solution of 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (0.030 g, 0.096 mmol), 7-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-1H-indole-2-carboxylic acid (0.026 g, 0.096 mmol) and DIPEA (0.025 mL, 0.145 mmol) in DMF (1 mL). The mixture was stirred at RT overnight then extracted with water and ethyl acetate. The organic layer was separated, dried over sodium sulfate, and concentrated. The residue was purified by column chromatography (hexane/EtOAc) to give the title compound (0.027 g, 44%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 11.59 (s, 1H), 9.32 (s, 1H), 9.07 (t, 1H), 7.81 (s, 1H), 7.67-7.77 (m, 1H), 7.44-7.57 (m, 3H), 7.39 (t, 1H), 7.27 (d, 1H), 7.17 (d, 1H), 6.96 (t, 1H), 4.57 (d, 2H), 1.5 (s, 9H). MS: m/z 569 (M).

reactant | HATU | 0.145 mmol, 0.055 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.096 mmol, 0.030 g | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9Cl2FN2O
reactant | 7-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-1H-indole-2-carboxylic acid | 0.096 mmol, 0.026 g | CC(C)(C)OC(=O)NC=1C=CC=C2C=C(NC12)C(=O)O | C14H16N2O4
reactant | DIPEA | 0.145 mmol, 0.025 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1,1-dimethylethyl (2-{[({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)amino]carbonyl}-1H-indol-7-yl)carbamate | 0.027 g, 44% | ClC1=C(C(=C(C=C1)CNC(=O)C=1NC2=C(C=CC=C2C1)NC(OC(C)(C)C)=O)F)OC1=CC(=CC(=C1)C#N)Cl | C28H23Cl2FN4O4
